US07622492B2
Trifluoroacetic acid (10 mL) was added slowly to a cooled (0° C.) solution of N′-(2-fluoro-phenyl)-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester (˜5.3 mmol) in dichloromethane (10 mL), and the resulting solution was stirred at 0° C. for 10 min and then at room temperature for 3.5 h. The solvent was evaporated and dichloromethane (80 mL) was added. The solution was washed with water (4×20 mL) and brine (20 mL), dried (magnesium sulfate), filtered, and evaporated to give an orange foam. This was triturated with 10% ethyl acetate/hexane (25 mL) and the mixture was cooled in an ice-bath at 0° C. for 1 h. The solid was filtered off and dried to give (4R,7S)-2-(2-fluoro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one (890 mg, 58%) as a pale yellow solid.

reactant | Trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N′-(2-fluoro-phenyl)-N′-((1S,4S)-4,7,7-trimethyl-3-oxo-bicyclo[2.2.1]heptane-2-carbonyl)-hydrazinecarboxylic acid tert-butyl ester | ˜5.3 mmol | C(C)(C)(C)OC(=O)NN(C(=O)C1[C@@H]2CC[C@](C1=O)(C2(C)C)C)C2=C(C=CC=C2)F | C22H29FN2O4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (4R,7S)-2-(2-fluoro-phenyl)-7,8,8-trimethyl-1,2,4,5,6,7-hexahydro-4,7-methano-indazol-3-one | 890 mg, 58% | FC1=C(C=CC=C1)N1NC=2[C@]3(CC[C@@H](C2C1=O)C3(C)C)C | C17H19FN2O
